US08629137B2
6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one
59 mg (1.4 mmol) sodium hydride (55%, suspension in mineral oil) were added at RT to 0.37 g (1.2 mmol) 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 5.0 mL DMF. The reaction mixture was stirred for 30 min at RT. Then 0.10 mL (1.60 mmol) iodomethane were added and the mixture was stirred for 1 h at RT. Then another 0.10 mL (1.60 mmol) iodomethane were added and the mixture was stirred overnight at RT. The reaction mixture was diluted with ice water and the precipitate formed was suction filtered. The residue was washed with water and dried i. vac.

reactant | sodium hydride | 1.4 mmol, 59 mg | [H-].[Na+]
reactant | 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 1.2 mmol | ClC1=CC(=NC(=N1)C)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C14H10ClN3O3
reactant | iodomethane | 1.60 mmol, 0.10 mL | IC | CH3I
reactant | iodomethane | 1.60 mmol, 0.10 mL | IC | CH3I
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | ClC1=CC(=NC(=N1)C)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C15H12ClN3O3
